US06713471B1
To a solution of 1,2,3,4-tetrahydroquinoline (505 mg, 3.79 mmol) and 1-bromo-3-chloro propane (1.77 g, 11 mmol) in 1,4-dioxane (6 mL) was added Et3N (1.90 g, 19 mmol). The reaction mixture was stirred at 70° C. for 17 h, and quenched by addition of H2O (2 mL). Reaction was diluted with Et2O (100 mL) and washed with brine (100 mL), dried over MgSO4 and concentrated in vacuo. Purification by column chromatography (hexanes:EtOAc 49:1) yielded 1-(3-chloropropyl)-1,2,3,4-tetrahydroquinoline (187 mg, 24%) as a colorless oil. The title compound was isolated as a yellow oil (22 mg, 43%) according to the method of Example 286, Step C from (8aS,12aR)-6,7,8a,9,10,11,12,12a-octahydro-5H-pyrido[4,3-b][1,4]thiazepino[2,3,4-hi]indole (30 mg, 0.12 mmol) and 1-(3-chloropropyl)-1,2,3,4-tetrahydroquinoline (51 mg, 0.24 mmol). 1H NMR (CDCl3) δ1.77-2.19 (m, 10H), 2.24-2.41 (m, 2H), 2.61-2.69 (m, 1H), 2.75-2.84 (m, 3H), 2.91-3.02 (m, 1H), 3.10-3.21 (m, 2H), 3.26-3.34 (m, 5H), 3.52-3.61 (m, 1H), 3.77-3.96 (m, 1H), 6.49-6.65 (m, 3H), 6.85 (d, 1H, J=7.3 Hz), 6.92-6.96 (m, 2H), 6.99-7.05 (m, 1H) ppm.

reactant | 1,2,3,4-tetrahydroquinoline | 3.79 mmol, 505 mg | N1CCCC2=CC=CC=C12 | C9H11N
reactant | 1-bromo-3-chloro propane | 11 mmol, 1.77 g | BrCCCCl | C3H6BrCl
reactant | Et3N | 19 mmol, 1.90 g | CCN(CC)CC | C6H15N
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | 1-(3-chloropropyl)-1,2,3,4-tetrahydroquinoline | 187 mg, 24% | ClCCCN1CCCC2=CC=CC=C12 | C12H16ClN
